US04853469
Preparation of diethyl [(2,3,4-trifluoroanilino)(p-methoxybenzylthio)methylene]malonate [compound (XII) in which R4 is ethyl]
Diethyl [(2,3,4-trifluoroanilino)(mercapto)methylene]malonate sodium salt (68.5 g) was dissolved in N,N-dimethylformamide (200 ml) and thereto p-methoxybenzyl chloride (28.9 g) was added dropwise at 3° to 5° C. over a period of 5 minutes. After the reaction mixture was stirred at room temperature for 1 hour and evaporated to dryness under reduced pressure, water was added to the residue and the mixture was extracted with chloroform. After the extract was washed with a NaCl solution and dried over magnesium sulfate, the solvent was distilled off under reduced pressure to give the title compound (82.9 g) as colorless solid, which was then recrystallized from a mixed solvent of haxane-benzene.

reactant | Diethyl [(2,3,4-trifluoroanilino)(mercapto)methylene]malonate sodium salt | 68.5 g | [Na].FC1=C(NC(S)=C(C(=O)OCC)C(=O)OCC)C=CC(=C1F)F
reactant | p-methoxybenzyl chloride | 28.9 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | diethyl [(2,3,4-trifluoroanilino)(p-methoxybenzylthio)methylene]malonate | 82.9 g | FC1=C(NC(SCC2=CC=C(C=C2)OC)=C(C(=O)OCC)C(=O)OCC)C=CC(=C1F)F | C22H22F3NO5S
